US04326055
In a manner analogous to that described in Example 1, from [1-(7-methoxy-1,1,3,3-tetramethyl-5-indanyl)ethyl]-triphenylphosphonium bromide and 4-ethoxycarbonyl-benzaldehyde there can be obtained p-[(E)-2-(7-methoxy-1,1,3,3-tetramethyl-5-indanyl)-propenyl]-benzoic acid ethyl ester of melting point 72°-73° C.

reactant | [1-(7-methoxy-1,1,3,3-tetramethyl-5-indanyl)ethyl]-triphenylphosphonium bromide | [Br-].COC=1C=C(C=C2C(CC(C12)(C)C)(C)C)C(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 4-ethoxycarbonyl-benzaldehyde | C(C)OC(=O)C1=CC=C(C=O)C=C1 | C10H10O3
product | p-[(E)-2-(7-methoxy-1,1,3,3-tetramethyl-5-indanyl)-propenyl]-benzoic acid ethyl ester | C(C)OC(C1=CC=C(C=C1)\C=C(/C)\C=1C=C2C(CC(C2=C(C1)OC)(C)C)(C)C)=O | C26H32O3
